US05037830
Preparation of 2-[(5-ethylpyridin-2-yl)methyl]thio-6-methyl-4(3H)-pyrimidinone
The title compound is prepared from 2-chloromethyl-5-ethylpyridinium chloride (m.p.: 126°-128° C.) and 6-methyl-2-thiouracyl by using the process described in Example 12. After recrystallization from ethanol the title compound is obtained as a white crystalline product in a yield of 51%, m.p.: 127°-128° C.

reactant | 2-chloromethyl-5-ethylpyridinium chloride | [Cl-].ClCC1=[NH+]C=C(C=C1)CC
reactant | 6-methyl-2-thiouracyl | CC1=CC(=O)NC(=S)N1 | C5H6N2OS
product | 2-[(5-ethylpyridin-2-yl)methyl]thio-6-methyl-4(3H)-pyrimidinone | yield of 51% | C(C)C=1C=CC(=NC1)CSC1=NC(=CC(N1)=O)C | C13H15N3OS
